US05475022
2-Methyl-3-thiophenecarboxylic acid
To a suspension of 5.32 g (41.5 mmol) of 3-thiophenecarboxylic acid in 100 ml of anhydrous tetrahydrofuran (chilled to -78° C.) was added 57.1 ml (91.4 mmol) of 1.6M n-BuLi in hexanes. The cloudy suspension was stirred at -78° C. under a blanket of argon for 40 minutes, and was then transfered via canulla onto a solution of 59.05 g (25.9 ml, 416 mmol) of methyl iodide dissolved in 20 ml of anhydrous tetrahydrofuran (chilled to -78° C.). The resulting clear, colorless solution was allowed to warm to room temperature and stirred for 20 hours. A white solid was formed. The reaction mixture was concentrated in vacuo, partitioned between 75 ml of sat. NH4Cl solution and 150 ml of ethyl ether, and the layers separated. The aqueous phase was washed with 100 ml of ethyl ether and layered with 100 ml of ethyl ether and acidified with 1N sulfuric acid solution until all of the yellow emulsion dissapated. All organic phases were combined, washed with brine solution, dried over MgSO4, filtered and concentrated in vacuo to yield an off-white solid. Purification by flash chromatography (silica gel, 75% ethyl acetate in hexane) yielded the title compound as an off white solid.

reactant | 3-thiophenecarboxylic acid | 41.5 mmol, 5.32 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | n-BuLi | 91.4 mmol, 1.6M, 57.1 ml | [Li]CCCC
reactant | methyl iodide | 416 mmol, 25.9 ml, 59.05 g | CI | CH3I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Methyl-3-thiophenecarboxylic acid | CC=1SC=CC1C(=O)O | C6H6O2S
